US06579875B1
c) 6-Chloro-3-(2-fluorophenyl)-7-(trimethylsily)-1,2,4-triazolo[4,3-b]pyridazine
To a stirred suspension of 3-chloro-6-[2-(2-fluorobenzoyl)hydrazino]-4-(trimethylsilyl)pyridazine (9.72 g, 28.7 mmol) and 1,2-dibromotetrachloroethane (18.68 g, 57.4 mmol) in anhydrous acetonitrile (170 ml), cooled under nitrogen to 1° C., was added portionwise, over 21 min, solid triphenylphosphine (30.10 g, 115 mmol), keeping the temperature below 5° C. The mixture was stirred at 2° C. for 10 min, then anhydrous triethylamine (32.0 ml, 230 mmol) was added dropwise over 18 min, keeping the temperature below 6° C. The mixture was then stirred at 0-3° C. under nitrogen for 85 min. The mixture was then diluted with dichloromethane (150 ml) and washed with water (200 ml). The organic layer was dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 20-40% EtOAc/hexane) to afford 7.67 g (83%) of the title compound as a white solid; 1H NMR (360 MHz, CDCl3) δ0.48 (9H, s), 7.30 (1H. dd, Jd=10.1 and 8.8 Hz), 7.36 (1H. td, J=7.6 and 1.1 Hz), 7.58 (1H, m). 7.90 (1H, td. J=7.3 and 1.8 Hz), 8.30 (1H, s); MS (ES+) m/e 321/323 [MH]+.

reactant | 3-chloro-6-[2-(2-fluorobenzoyl)hydrazino]-4-(trimethylsilyl)pyridazine | 28.7 mmol, 9.72 g | ClC=1N=NC(=CC1[Si](C)(C)C)NNC(C1=C(C=CC=C1)F)=O | C14H16ClFN4OSi
reactant | 1,2-dibromotetrachloroethane | 57.4 mmol, 18.68 g | BrC(C(Br)(Cl)Cl)(Cl)Cl | C2Br2Cl4
reactant | triphenylphosphine | 115 mmol, 30.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 230 mmol, 32.0 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 170 ml | C(C)#N | C2H3N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 6-Chloro-3-(2-fluorophenyl)-7-(trimethylsily)-1,2,4-triazolo[4,3-b]pyridazine | 7.67 g, 83% | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=CC=C2)F)[Si](C)(C)C | C14H14ClFN4Si
